US07276627B2
Following the general procedure, Pd2dba3 (18.3 mg, 2 mol %), NaO-t-Bu (336 mg, 3.5 mmol), P(isoBuNCH2CH2)3N (13.6 mg, 4 mol %), 4-aminostyrene (119 mg, 1 mmol), 4-iodoanisole (749 mg, 3.2 mmol), and 10 mL of dry toluene at 110° C. for 16 h produced (5) N,N-bis(4-methoxyphenyl)-4-[2-(4-methoxyphenyl) ethenyl]benzenamine (180 mg, 41%) as the sole product after chromatography with 1-5% EtOAc/hexane mixture. (See Entry 8 of Table 2).

reactant | NaO-t-Bu | 3.5 mmol, 336 mg | O([Na])C(C)(C)C
reactant | 4-aminostyrene | 1 mmol, 119 mg | NC1=CC=C(C=C)C=C1 | C8H9N
reactant | 4-iodoanisole | 3.2 mmol, 749 mg | IC1=CC=C(C=C1)OC | C7H7IO
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
catalyst | Pd2dba3 | 18.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N,N-bis(4-methoxyphenyl)-4-[2-(4-methoxyphenyl) ethenyl]benzenamine | 180 mg, 41% | COC1=CC=C(C=C1)N(C1=CC=C(C=C1)C=CC1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C29H27NO3
